US04179505
To a stirred mixture of 10.3 parts of α-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-ethyl-2-methyl-1H-benzimidazole-5-methanol trihydrochloride in 75 parts of trichloromethane are added dropwise 4.3 parts of thionyl chloride at room temperature. Upon completion, stirring is continued for 30 minutes at reflux temperature After cooling, the precipitated product is filtered off, washed with trichloromethane and with 2,2'-oxybispropane, and dried, yielding 9 parts (85.8%) of 5-{1-chloro-2-[4-(diphenylmethyl)-1-piperazinyl]-ethyl}1-ethyl-2-methyl-1H-benzimidazole trihydrochloride.

reactant | α-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-ethyl-2-methyl-1H-benzimidazole-5-methanol trihydrochloride | Cl.Cl.Cl.C1(=CC=CC=C1)C(N1CCN(CC1)CC(O)C1=CC2=C(N(C(=N2)C)CC)C=C1)C1=CC=CC=C1
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 5-{1-chloro-2-[4-(diphenylmethyl)-1-piperazinyl]-ethyl}1-ethyl-2-methyl-1H-benzimidazole trihydrochloride | 85.8% | Cl.Cl.Cl.ClC(CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC2=C(N(C(=N2)C)CC)C=C1 | InChI=1S/C29H33ClN4.3ClH/c1-3-34-22(2)31-27-20-25(14-15-28(27)34)26(30)21-32-16-18-33(19-17-32)29(23-10-6-4-7-11-23)24-12-8-5-9-13-24;;;/h4-15,20,26,29H,3,16-19,21H2,1-2H3;3*1H
